US08067450B2
Step 1. Preparation of 4-(2-hydroxy-2-phenylethoxy)benzaldehyde
To 2-(4-fluorophenyl)oxirane (6.50 g, 54.0 mmol) was added toluene (85 ml), 4-hydroxybenzaldehyde (9.89 g, 81.0 mmol), PEG4000 (polyethylene glycol, 1.15 g) and 1M NaOH (85 ml) and the stirring mixture was heated at 78° C. overnight. After cooling to RT the reaction mixture was extracted with EtOAc, and the organic phase was washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The resulting yellow oil was chromatographed on a medium silica gel column eluting with 0-10% EtOAc/DCM. Fractions containing predominantly the higher Rf spot were combined and evaporated in vacuo to give 1.85 g (14%) of the title compound as a yellow oil. Fractions containing predominantly the lower Rf spot were combined and evaporated in vacuo to give 0.64 g of the regioisomer as a colorless, viscous oil. Mixed fractions were combined and rechromatographed eluting with 30% EtOAc/hexanes. Fractions containing the higher Rf material were combined and evaporated in vacuo to give an additional 2.64 g (20%) of the title compound as a colorless oil. Fractions containing the lower Rf material were combined and evaporated in vacuo to give an additional 1.82 g of the regioisomer as a colorless viscous oil.

reactant | 2-(4-fluorophenyl)oxirane | 54.0 mmol, 6.50 g | FC1=CC=C(C=C1)C1OC1 | C8H7FO
reactant | 4-hydroxybenzaldehyde | 81.0 mmol, 9.89 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | NaOH | 1M, 85 ml | [OH-].[Na+]
solvent | toluene | 85 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-hydroxy-2-phenylethoxy)benzaldehyde | 1.85 g, 14% | OC(COC1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C15H14O3
